US06107329
5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-(4-methylamino-piperidin-1-yl)-2-oxo-ethyl]-amide
Dimethylamine hydrochloride (1.1 mmol), sodium acetate (2.1 mmol), activated 3Å molecular seives, and sodium cyanoborohydride (0.25 mmol) were added in this order to 5-chloro-1H-indole-2-carboxylic acid [1-benzyl-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl]-amide (0.21 mmol) in methanol (2 mL) at 0° C. After 18 hours, the mixture was concentrated, the residue taken up in ethyl acetate, the resulting solution washed with 2N NaOH and brine, dried with Na2SO4 and concentrated. The product was purified by chromatography on silica gel eluted with 1-8% ethanol in dichloromethane containing 0.5% NH4OH followed by trituration with ether: Yield 82%; HPLC (60/40) 2.79 minutes (98%); PBMS 439/441 (MH+,100%);

reactant | Dimethylamine hydrochloride | 1.1 mmol | Cl.CNC
reactant | sodium acetate | 2.1 mmol | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.25 mmol | C(#N)[BH3-].[Na+]
reactant | 5-chloro-1H-indole-2-carboxylic acid [1-benzyl-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl]-amide | 0.21 mmol | C(C1=CC=CC=C1)C(C(N1CCC(CC1)=O)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H22ClN3O3
solvent | methanol | 2 mL | CO | CH4O
product | 5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-(4-methylamino-piperidin-1-yl)-2-oxo-ethyl]-amide | Yield 82% | C(C1=CC=CC=C1)C(C(=O)N1CCC(CC1)NC)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C24H27ClN4O2
